#Test ciruit-7

.options maxdelta=1000.

.analysis eop
#.analysis op


x1 2 subcircuit1
x2 3 subcircuit2
res:r5 2 3  r=10
res:r13 2 7 r=10
res:r14 7 gnd r=10


.subckt subcircuit1 2 
res:r1  1 gnd   r=10
res:r2 20 gnd r=10
res:r3 1 2 r=10
res:r4 2 gnd r=10
idc:is1 20 1 idc=5A
.ends

.subckt subcircuit2 3 
res:r6  3 gnd   r=10
res:r7  3 4   r=10
res:r8  4 5   r=10
res:r9  5 gnd   r=10
res:r11  6 gnd   r=10
res:r10 6 4 r=10
.end


