#Test circuit-8

.options maxiter=100
*.analysis op
.analysis eop maxiter = 100



x1 2 subcircuit1
x2 3 subcircuit2
res:r5 2 3  r=10
res:r13 2 7 r=10
res:r14 7 gnd r=10


.subckt subcircuit1 2 
res:r1  1 gnd   r=10
res:r2 20 gnd r=10
diode:d1 1 2 isat=10fA cj0=20fF
res:r4 2 gnd r=10
idc:is1 20 1 idc=5A
.ends

.subckt subcircuit2 3 
res:r6  3 gnd   r=10
res:r7  3 4   r=10
#diode:d1 gnd 4 isat=10fA cj0=20fF
acms_i:m1 3 4 5 gnd w=10e-6 l=1e-6 type = n
res:r9  5 gnd   r=10
res:r11  6 gnd   r=10
res:r10 6 4 r=10
.end

